US04060528
To a stirred mixture of 5.2 parts of p-(2-thenoyl)hydratropic acid in 50 parts of dry hexamethylphosphoramide are added 0.86 parts of sodium hydride dispersion 55.3% and the whole is stirred for 1.5 hours. Then there are added 3.86 parts of octyl bromide and 0.01 parts of potassium iodide. Upon completion, stirring is continued for 18 hours at room temperature. The reaction mixture is poured onto benzene and the whole is shaken successively twice with water, twice with sodium hydroxide solution and again twice with water. The organic phase is dried, filtered and evaporated. The residue is taken up in ether and stirred with activated charcoal. The latter is filtered off and the filtrate is evaporated again. The residue is purified by column-chromatography with chloroform. The pure fractions are collected and the solvent is evaporated, yielding octyl p-(2-thenoyl)-hydratropate as a residue.

reactant | p-(2-thenoyl)hydratropic acid | C1(=CC=CS1)C(=O)C1=CC=C(C(C(=O)O)C)C=C1 | C14H12O3S
reactant | sodium hydride | [H-].[Na+]
reactant | octyl bromide | C(CCCCCCC)Br | C8H17Br
reactant | potassium iodide | [I-].[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | octyl p-(2-thenoyl)-hydratropate | C1(=CC=CS1)C(=O)C1=CC=C(C(C(=O)OCCCCCCCC)C)C=C1 | C22H28O3S
